US06326333B1
Methyl 3-(3-methyl-2-butenylthio)-2-methylbenzoate
37.9 g (0.275 mol) of potassium carbonate and 43.5 g (0.275 mol) of 3-methyl-2-butenyl bromide were added dropwise to 50 g (0.275 mol) of methyl 3-thio-2-methylbenzoate in 250 ml of acetone, and the mixture was stirred at room temperature for 10 hours. The solvent was distilled off, the residue was taken up in water/ethyl acetate and the organic phase was dried, filtered off and concentrated.

reactant | potassium carbonate | 0.275 mol, 37.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methyl-2-butenyl bromide | 0.275 mol, 43.5 g | CC(=CCBr)C | C5H9Br
reactant | methyl 3-thio-2-methylbenzoate | 0.275 mol, 50 g | CC1=C(C=CCC1=S)C(=O)OC | C9H10O2S
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | Methyl 3-(3-methyl-2-butenylthio)-2-methylbenzoate | CC(=CCSC=1C(=C(C(=O)OC)C=CC1)C)C | C14H18O2S
